US06949680B2
b) Synthesis of 5-oxo-5-phenylpentyl 3-cyclohexylpropionate
This compound was synthesised as described under 1.e) with 2.0 ml of a 1N solution of HCl, 4.12 g (11.4 mmol) of 4-(2-phenyl-1,3-dioxolan-2-yl)butyl 3-cyclohexylpropionate obtained under a) in 20 ml of THF for 19 h. Column chromatography (SiO2, heptane/ether 3:2) afforded 2.15 g (60%) of a yellow oil containing small amounts of impurities, which can be distilled off (Kugelrohr, 150° C./1×102 Pa).

reactant | HCl | Cl | ClH
reactant | 4-(2-phenyl-1,3-dioxolan-2-yl)butyl 3-cyclohexylpropionate | 11.4 mmol, 4.12 g | C1(CCCCC1)CCC(=O)OCCCCC1(OCCO1)C1=CC=CC=C1 | C22H32O4
reactant | heptane ether | CCCCCCC.CCOCC
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-oxo-5-phenylpentyl 3-cyclohexylpropionate | 2.15 g, 60% | C1(CCCCC1)CCC(=O)OCCCCC(C1=CC=CC=C1)=O | C20H28O3
